US05059608
1-Methyl-1-phenyl-2-phenethyl-1,2,3,4-tetrahydroisoquinoline hydrochloride was prepared by reacting 1-phenyl-3,4-dihydroisoquinoline with phenethyl bromide, then 3M diethyl ether solution of methylmagnesium bromide according to a similar manner to that of Example 26, and then converting the resultant compound to its hydrochloride according to a conventional manner.

reactant | 1-phenyl-3,4-dihydroisoquinoline | C1(=CC=CC=C1)C1=NCCC2=CC=CC=C12 | C15H13N
reactant | phenethyl bromide | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | methylmagnesium bromide | C[Mg]Br
reactant | hydrochloride | Cl | ClH
solvent | diethyl ether | 3M | C(C)OCC | C4H10O
product | 1-Methyl-1-phenyl-2-phenethyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.CC1(N(CCC2=CC=CC=C12)CCC1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H25N.ClH/c1-24(22-13-6-3-7-14-22)23-15-9-8-12-21(23)17-19-25(24)18-16-20-10-4-2-5-11-20;/h2-15H,16-19H2,1H3;1H
